US07759379B2
1-Methyl-piperidine-3-carboxylic acid [5-(4,4-dimethyl-2,5-dioxo-3-pyridin-4-ylmethyl-imidazolidin-1-yl)-2-trifluoromethoxy-phenyl]-amide; compound with trifluoro-acetic acid
270 mg (1.50 mmol) 1-methyl-piperidine-3-carboxylic acid hydrochloride were suspended in 20 ml methylene chloride, 216 mg (1.70 mmol) oxalyl chloride follwoed by 11 mg DMF were added and the mixture stirred at RT for 15 h. The solvent was removed by evaporation. To 30 mg (0.15 mmol) of the resulting acid chloride hydrochloride were given a solution of 39 mg (0.10 mmol) 3-(3-amino-4-trifluormethoxy-phenyl)-5,5-dimethyl-1-pyridin-4-ylmethyl-imidazolidine-2,4-dione and 12 mg (0.10 mmol) DMAP in 3 ml methylene chloride. After stirring for 2 h at RT, the mixture was poured on diluted sodium bicarbonate solution, extracted with methylene chloride, then dried and evaporated. The residue was was purified by preparative HPLC. (C18 reversed phase column, elution with a water (0.1% trifluoracetic acid)/acetonitrile gradient) Yield: 8 mg

reactant | 1-methyl-piperidine-3-carboxylic acid hydrochloride | 1.50 mmol, 270 mg | Cl.CN1CC(CCC1)C(=O)O
reactant | oxalyl chloride | 1.70 mmol, 216 mg | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 3-(3-amino-4-trifluormethoxy-phenyl)-5,5-dimethyl-1-pyridin-4-ylmethyl-imidazolidine-2,4-dione | 0.10 mmol, 39 mg | NC=1C=C(C=CC1OC(F)(F)F)N1C(N(C(C1=O)(C)C)CC1=CC=NC=C1)=O | C18H17F3N4O3
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | methylene chloride | 20 ml | C(Cl)Cl | CH2Cl2
catalyst | DMAP | 0.10 mmol, 12 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | methylene chloride | 3 ml | C(Cl)Cl | CH2Cl2
solvent | DMF | 11 mg | CN(C)C=O | C3H7NO
product | 1-Methyl-piperidine-3-carboxylic acid [5-(4,4-dimethyl-2,5-dioxo-3-pyridin-4-ylmethyl-imidazolidin-1-yl)-2-trifluoromethoxy-phenyl]-amide; compound with trifluoro-acetic acid | FC(C(=O)O)(F)F.CC1(N(C(N(C1=O)C=1C=CC(=C(C1)NC(=O)C1CN(CCC1)C)OC(F)(F)F)=O)CC1=CC=NC=C1)C | InChI=1S/C25H28F3N5O4.C2HF3O2/c1-24(2)22(35)33(23(36)32(24)14-16-8-10-29-11-9-16)18-6-7-20(37-25(26,27)28)19(13-18)30-21(34)17-5-4-12-31(3)15-17;3-2(4,5)1(6)7/h6-11,13,17H,4-5,12,14-15H2,1-3H3,(H,30,34);(H,6,7)
